US07851072B2
4-methylphenylboronic acid (20.0 g, 0.147 mol) was reacted with 2-bromo-3-methylpyridine (21.1 g, 0.123 mol) under standard Suzuki coupling condition. A small amount of unreacted 2-bromo-3-methylpyridine was removed via vacuum distillation. Purification via flash silica gel chromatography with a 1/99 to 7.5/92.5 EtOAc/hexane solvent gradient yielded 17.0 g of 2-(4-methylphenyl)-3-methylpyridine as a colorless liquid.

reactant | 4-methylphenylboronic acid | 0.147 mol, 20.0 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 2-bromo-3-methylpyridine | 0.123 mol, 21.1 g | BrC1=NC=CC=C1C | C6H6BrN
product | 2-(4-methylphenyl)-3-methylpyridine | 17.0 g | CC1=CC=C(C=C1)C1=NC=CC=C1C | C13H13N
